US08648089B2
tert-butyl 4-(3-(4-hydroxyphenyl)-1-(pyridin-4-yl)-1H-indol-6-yl)piperazine-1-carboxylate
2 N sodium hydroxide aqueous solution (18 μL, 0.035 mmol) was added to a mixture solution of tert-butyl 4-(3-(4-(tert-butoxycarbonyloxy)phenyl)-1-(pyridin-4-yl)-1H-indol-6-yl)piperazine-1-carboxylate (10 mg, 0.018 mmol) in methanol (0.5 mL) at room temperature. After stirring at room temperature for 3.5 hours, followed by addition of water, the mixture was extracted with ethyl acetate. The collected organic layer was washed with brine and concentrated under reduced pressure by drying with anhydrous magnesium sulfate. The target compound was obtained as white solid.

reactant | sodium hydroxide | 0.035 mmol, 2 N, 18 μL | [OH-].[Na+]
reactant | tert-butyl 4-(3-(4-(tert-butoxycarbonyloxy)phenyl)-1-(pyridin-4-yl)-1H-indol-6-yl)piperazine-1-carboxylate | 0.018 mmol, 10 mg | C(C)(C)(C)OC(=O)OC1=CC=C(C=C1)C1=CN(C2=CC(=CC=C12)N1CCN(CC1)C(=O)OC(C)(C)C)C1=CC=NC=C1 | C33H38N4O5
reactant | water | O | H2O
solvent | methanol | 0.5 mL | CO | CH4O
product | tert-butyl 4-(3-(4-hydroxyphenyl)-1-(pyridin-4-yl)-1H-indol-6-yl)piperazine-1-carboxylate | OC1=CC=C(C=C1)C1=CN(C2=CC(=CC=C12)N1CCN(CC1)C(=O)OC(C)(C)C)C1=CC=NC=C1 | C28H30N4O3
